US05506227
Step 1: 6-Ethyl-2-pyridinecarboxaldehyde
To a solution of N,N,N-trimethylethylenediamine (4.29 mL, 33 mmol) in THF (20 mL) at -25° C. was added n-BuLi (13.2 mL, 2.5M in hexanes, 33 mmol). This solution was stirred 15 minutes, then transferred into a -78° C. solution of 6-methyl-2-pyridine-carboxaldehyde (3.63 g, 30 mmol) in THF (80 mL). After stirring 30 minutes at -78° C., a THF (50 mL) solution of lithium diisopropylamide (33 mmol) was added and the now dark red mixture was stirred 1 hour at -78° C. Methyl iodide (5.68 g, 40 mmol) in THF (10 mL) was added and reaction mixture was allowed to warm to r.t. for 4 hours. Water and 25% aq. NH4OAc were added, the crude product was extracted with EtOAc (2×) and solvents were evaporated. Purification by flash chromatography (from 5% to 10% EtOAc in hexanes) gave 660 mg of the title compound.

reactant | N,N,N-trimethylethylenediamine | 33 mmol, 4.29 mL | CNCCN(C)C | C5H14N2
reactant | n-BuLi | 33 mmol, 2.5M, 13.2 mL | [Li]CCCC
reactant | 6-methyl-2-pyridine-carboxaldehyde | 30 mmol, 3.63 g | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | lithium diisopropylamide | 33 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | Methyl iodide | 40 mmol, 5.68 g | CI | CH3I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 6-Ethyl-2-pyridinecarboxaldehyde | 660 mg | C(C)C1=CC=CC(=N1)C=O | C8H9NO
